US06949680B2
a) Synthesis of methyl 5-oxo-5-phenylpentanoate
A solution of 50.0 g of 5-oxo-5-phenylpentanoic acid (260 mmol) (origin: Fluka) and 70 ml of conc. H2SO4 in 1400 ml of methanol was heated under reflux for 1 h. The reaction mixture was cooled down to room temperature and added to 2 l of water and extracted with ether (2×). The organic phase was washed with water (1×), an aq. solution of NaHCO3 (10%, 2×), again with water (2×), dried (Na2SO4) and concentrated to give 47.9 g (90%) of a slightly yellow oil, which slowly crystallizes at 4° C.

reactant | 5-oxo-5-phenylpentanoic acid | 260 mmol, 50.0 g | O=C(CCCC(=O)O)C1=CC=CC=C1 | C11H12O3
reactant | H2SO4 | 70 ml | OS(=O)(=O)O | H2O4S
reactant | water | 2 l | O | H2O
reactant | methanol | 1400 ml | CO | CH4O
product | methyl 5-oxo-5-phenylpentanoate | O=C(CCCC(=O)OC)C1=CC=CC=C1 | C12H14O3
